US06974802B2
To a solution of 2′,3′-dideoxy-3′-fluoroguanosine (810 mg, 3 mmole) and 4-dimethylaminopyridine (73 mg, 0.6 mmole), N-CBz-L-valine (1.5 g, 6 mmole) and 1-hydroxybenzotriazole (810 mg, 6 mmole) in DMF (20 ml) was added DCC (1.36 g, 6.6 mmole). After 72 h, the reaction mixture was filtered and concentrated in vacuo. 5′-(N-CBz-L-valyl)-2′,3′-dideoxy-3′-fluoroguanosine was isolated by silica gel column chromatography (1.15 g).

reactant | 2′,3′-dideoxy-3′-fluoroguanosine | 3 mmole, 810 mg | F[C@H]1C[C@@H](O[C@@H]1CO)N1C=NC=2C(=O)NC(N)=NC12 | C10H12FN5O3
reactant | N-CBz-L-valine | 6 mmole, 1.5 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | 1-hydroxybenzotriazole | 6 mmole, 810 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | DCC | 6.6 mmole, 1.36 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | 4-dimethylaminopyridine | 0.6 mmole, 73 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5′-(N-CBz-L-valyl)-2′,3′-dideoxy-3′-fluoroguanosine | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)C([C@@H]1[C@H](C[C@@H](O1)N1C=NC=2C(=O)NC(N)=NC12)F)O | C23H27FN6O6
